US08012976B2
A suspension of ethyl 3-(1-isopropyl-1H-imidazol-5-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (770 mg, 1.9 mmol) and hydrazine monohydrate (6 ml, 85%) were added in methanol (10 mL) and stirred at 50° C. overnight. The mixture was filtered, and the white solid was washed with methanol and dried to give 9-(1-isopropyl-1H-imidazol-5-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (90 mg, yield 13%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 0.82-0.84 (d, J=6.8 Hz, 3H), 1.27-1.29 (d, J=6.4 Hz, 3H), 3.30-3.33 (t, J=6.6 Hz, 1H), 4.67-4.70 (d, J=11.2 Hz, 1H), 4.92-4.95 (d, J=11.2 Hz, 1H), 6.80 (s, 1H), 7.01 (s, 1H), 7.16-7.18 (s, 1H), 7.24-7.28 (m, 3H), 7.31 (s, 1H), 7.36-7.39 (m, 3H), 7.55-7.59 (m, 1H); LC-MS (ESI) m/z: 372 (M+1)+.

reactant | ethyl 3-(1-isopropyl-1H-imidazol-5-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 1.9 mmol, 770 mg | C(C)(C)N1C=NC=C1C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=CC=C1 | C24H25N3O3
reactant | hydrazine monohydrate | 6 ml | O.NN
solvent | methanol | 10 mL | CO | CH4O
product | 9-(1-isopropyl-1H-imidazol-5-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 90 mg, yield 13% | C(C)(C)N1C=NC=C1C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=CC=C2 | C22H21N5O
